Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.57738931244
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4],0.826463614049
[C:3][H:4].[H:1][C:2]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.06503267294
[C:5]([H:6])=[C:7]([H:8])[O:9][C:10][H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],-1.41791170157
[C:1][O:2][C:3]=[C:4]=[O:5].[H:6]>>[C:1][O:2][C:3]#[C:4][O:5][H:6],-1.52548053857
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13],4.6020845142
[H:4].[O:1]=[C:2]=[C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.10968496918
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:12][H:13],4.79501403611
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-0.7577363072200001
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.52621026834
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([H:7])[C:8]=[C:9]([H:10])[H:11],0.977358370959
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.51302194563
[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[O:10][H:11].[H:7],3.20725380292
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],4.43262315495
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],4.690205107390001
[O:1].[O:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.6732077903399999
[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],6.57520489974
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6](#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],1.08380014278
[C:2](\[H:3])(=[C:4]\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C@@:2]([H:3])([C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.03445617202
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])#[C:9][H:10].[H:1][C:2]=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.39693112943
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],6.80274123
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],1.88965667654
[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],3.89548771637
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])=[O:8].[H:9]>>[C:1]/[C:2]([C:3](=[O:4])[H:5])=[C:6](/[H:7])[O:8][H:9],-1.87178225707
[C:1](#[C:2][C:4](=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10])[H:3]>>[C:1]=[C:2]([H:3])[C:4](=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],1.77446511485
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][O:3][H:4],4.07228075475
[C:4]([H:5])[O:6][C:7]#[C:8][H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9],-0.69471803979
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](=[C:3])[C@:8]([C:7]=[C:4]([H:5])[H:6])([H:9])[C:10]([H:11])([H:12])[H:13],0.4135373693699999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:3],5.19152522356
